* Generated by generate_dielectric_netlists.py for case 2-8-30
* Z:\Users\r-kobayashi\Documents\DoctoralResearch\DoctoralResearch\src\JPE_circuit_model\examples\JPE_3stacks.asc
V Ndc 0 PWL(0 0 1 3 2 0)
R_fg N006 Ndc 50
L_ext N004 N006 10m
R_ext N002 N004 1.15
L_mid N001 N002 10m
L_rad N003 N005 6.3986u
R_rad Nd N003 8.5994
C_rad N005 Na 10.498n
R_gnd Na 0 7.2
V§T_bath N007 0 -26.295
R_th T N007 7162.3
C_th T N007 100n
R_mid Nd N001 8.29

* Stack configuration: 2-8-30
XX001 Nd Nc_s01 T 0 1stack params: M=28.8741 N=20 I_c=12m R=52.6077m L=93.3639n C=3.50792u
XX002 Nc_s01 Nc T 0 1stack params: M=28.8741 N=20 I_c=12m R=52.6077m L=93.3639n C=3.50792u
XX003 Nc Nb_s01 T 0 1stack params: M=39.3746 N=22 I_c=18m R=38.5782m L=68.4655n C=4.78362u
XX004 Nb_s01 Nb_s02 T 0 1stack params: M=39.3746 N=22 I_c=18m R=38.5782m L=68.4655n C=4.78362u
XX005 Nb_s02 Nb_s03 T 0 1stack params: M=39.3746 N=22 I_c=18m R=38.5782m L=68.4655n C=4.78362u
XX006 Nb_s03 Nb_s04 T 0 1stack params: M=39.3746 N=22 I_c=18m R=38.5782m L=68.4655n C=4.78362u
XX007 Nb_s04 Nb_s05 T 0 1stack params: M=41.2496 N=21 I_c=18m R=36.8246m L=65.3534n C=5.01141u
XX008 Nb_s05 Nb_s06 T 0 1stack params: M=41.2496 N=21 I_c=18m R=36.8246m L=65.3534n C=5.01141u
XX009 Nb_s06 Nb_s07 T 0 1stack params: M=41.2496 N=21 I_c=18m R=36.8246m L=65.3534n C=5.01141u
XX010 Nb_s07 Nb T 0 1stack params: M=41.2496 N=21 I_c=18m R=36.8246m L=65.3534n C=5.01141u
XX011 Nb Na_s01 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX012 Na_s01 Na_s02 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX013 Na_s02 Na_s03 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX014 Na_s03 Na_s04 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX015 Na_s04 Na_s05 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX016 Na_s05 Na_s06 T 0 1stack params: M=39.4839 N=22 I_c=18.05m R=38.4714m L=68.276n C=4.7969u
XX017 Na_s06 Na_s07 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX018 Na_s07 Na_s08 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX019 Na_s08 Na_s09 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX020 Na_s09 Na_s10 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX021 Na_s10 Na_s11 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX022 Na_s11 Na_s12 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX023 Na_s12 Na_s13 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX024 Na_s13 Na_s14 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX025 Na_s14 Na_s15 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX026 Na_s15 Na_s16 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX027 Na_s16 Na_s17 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX028 Na_s17 Na_s18 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX029 Na_s18 Na_s19 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX030 Na_s19 Na_s20 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX031 Na_s20 Na_s21 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX032 Na_s21 Na_s22 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX033 Na_s22 Na_s23 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX034 Na_s23 Na_s24 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX035 Na_s24 Na_s25 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX036 Na_s25 Na_s26 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX037 Na_s26 Na_s27 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX038 Na_s27 Na_s28 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX039 Na_s28 Na_s29 T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u
XX040 Na_s29 Na T 0 1stack params: M=41.3641 N=21 I_c=18.05m R=36.7227m L=65.1725n C=5.02532u

* block symbol definitions
.subckt 1stack in out P_out P_in
B§IJJ in out I={I_c}*sin(V(Phi))
B§R_int in out I={M}*((V(in)-V(out))/({alpha}*(exp(-1*(V(P_out)-V(P_in))/{beta})+exp(-1*(V(P_out)-V(P_in))**2/{gamma}))+{delta}))
R in N001 {R}
C Nlc out {C}
B§P P_in P_out I=(V(in)-V(out))*I(R_int)
B§V_t 0 Phi I=(V(in)-V(out))/{N}
C§h/2e Phi 0 329.1p
L N001 Nlc {L}
.ic V(Phi)=0 V(Nlc)=0
.ends 1stack

.param alpha=140.26 beta=74.429 gamma=2993.7 delta=14.966
.tran 0 2 0 10u
.ic V(Nd)=0 V(Nc_s01)=0 V(Nc)=0 V(Nb_s01)=0 V(Nb_s02)=0 V(Nb_s03)=0
+ V(Nb_s04)=0 V(Nb_s05)=0 V(Nb_s06)=0 V(Nb_s07)=0 V(Nb)=0 V(Na_s01)=0
+ V(Na_s02)=0 V(Na_s03)=0 V(Na_s04)=0 V(Na_s05)=0 V(Na_s06)=0 V(Na_s07)=0
+ V(Na_s08)=0 V(Na_s09)=0 V(Na_s10)=0 V(Na_s11)=0 V(Na_s12)=0 V(Na_s13)=0
+ V(Na_s14)=0 V(Na_s15)=0 V(Na_s16)=0 V(Na_s17)=0 V(Na_s18)=0 V(Na_s19)=0
+ V(Na_s20)=0 V(Na_s21)=0 V(Na_s22)=0 V(Na_s23)=0 V(Na_s24)=0 V(Na_s25)=0
+ V(Na_s26)=0 V(Na_s27)=0 V(Na_s28)=0 V(Na_s29)=0 V(Na)=0
.backanno
.end
